2141-07-19 07:03:00 Physician Resident Progress Note
TITLE: MS4 Progress Note
   Chief Complaint: Pleuritic R chest pain
   24 Hour Events:
   - Admitted.
   Subjective:
   The patient continues to have cough and dry mouth.  She does not have
   increased SOB.  Her chest pain has resolved.  No N/V or diarrhea.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-7-18**] 08:00 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-19**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 72 (70 - 128) bpm
   BP: 109/53(67) {83/42(47) - 118/57(69)} mmHg
   RR: 22 (16 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,568 mL
                                                                     56 mL
   PO:
             TF:
   IVF:
                                                                  1,568 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    245 mL
   Urine:
                                                                    315 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,753 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG:
   Physical Examination
   Gen: Elderly woman in NAD, intermittently coughing, does not appear
   acutely ill
   HEENT: NCAT, PERRL, Dry MM, neck veins flat
   CV: RRR, nl S1 S2, no murmurs
   Lungs: Decreased breath sounds throughout, faint end-expiratory wheezes
   Abd: Soft, non-tender, bowel sounds present
   Ext: No edema or calf tenderness, warms and well-perfused, DP pulse
   palpable bilaterally
   Neurologic: Responds appropriately to questions, grossly non-focal
   Labs / Radiology
   269 K/uL
   7.9 g/dL
   99 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.4 mEq/L
   13 mg/dL
   105 mEq/L
   133 mEq/L
   24.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2141-7-18**]  08:16 PM
                             [**2141-7-19**]  04:10 AM
   WBC
   10.6
   Hct
   24.7
   Plt
   269
   Cr
   0.8
   TropT
   0.01
   <0.01
   Glucose
   99
   Other labs: PT / PTT / INR:16.5/112.5/1.5, CK / CKMB /
   Troponin-T:31/3/<0.01, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   81F with h/o chronic eosinophilic lung disease, COPD, diastolic CHF,
   and recent admission for MSSA and pan-sensitive Pseudomonas PNA who
   presents with fev--ers, right sided pleuritic chest pain and found to
   have extensive R sided PE on imaging.
 PULMONARY EMBOLISM: Likely due to prolonged immobilization with
   inadequate anticoagulation.  LENI
s performed yesterday show clot in
   both lower extremities.  Has been hemodynamically stable without need
   for tPA or surgical intervention.
   - continue heparin drip
   - bedside echo today to evaluate RV function
   - continue close monitoring of hemodynamic status
   - will need long-term anticoagulation with coumadin, begin coumadin 3
   mg today and re-check INR
 FEVER: The patient
s high Tmax (103.4) is unlikely to be due to PE
   alone.  RLL infiltrate on CXR suggests possible infectious process
   which is also supported by patient
s down-trending temp curve and
   stable WBC while on antibiotics for hospital-acquired pneumonia.
   - continue vancomycin, ciprofloxacin
   - obtain sputum sample for culture
   - will check stool for c. diff if patient develops diarrhea given her
   recent history of c. diff colitis
   - f/u blood, urine cultures
   - continue to trend WBC and temp curve
 HYPOTENSION: Likely has both cardiogenic and septic components, with
   cardiogenic being dominant process given patient
s excellent response
   to fluid bolus (suggests pre-load dependence).  She has intermittently
   had systolic BP
s in the 80
s but has not required pressors with
   appropriate fluid bolus.
   - continue fluid bolus to goal SBP >90, UOP >30 cc/hr
   - continue antibiotics as above for possible septic component
   - has completed mini-stress dose steroids for possible component of
   adrenal insufficiency in this patient on long term steroid therapy,
   transition back to home dose of prednisone 5 mg daily
OLIGURIA: The patient maintained an average UOP of 40 cc/hr in the
   first day of her hospitalization, however this am she had UOP of 10 cc
   from 9am to 10am.  There is a likely a pre-renal component in this
   patient with hypovolemia as well as possible nephrotoxicity from the
   contrast she received during her CTA.
   - 500 fluid bolus now, then evaluate UOP over next 3 hours (goal >30
   cc/hr).  If goal is not met, will check UA and urine lytes.
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: LENI
s reveal
   significant clot burden ( R common fem extending into greater saphenous
   and profunda femorus, L peroneal)
   - continue heparin drip
 ANEMIA: Hct down to 7 points from admission to 24.7, however there is
   no evidence of bleeding, the patient was guiaic negative in the ED, and
   her baseline Hct in previous admission has been in the mid-to-high
   20
s.  She also received 1.5 L fluid over the course of the day
   yesterday which may causing hemodilution.
   - check pm Hct
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION: Patient appears at her baseline
   breathing status without increased SOB or cough, however is requiring
   supplemental O2 (increased from 2L to 4L o/n when patient briefly
   desaturated to 93%), likely due to large PE.
   - continue supplement O2 and wean as tolerated
   - continue home COPD meds
   - will use morphine for chest pain relief for it
s additional property
   of relieving air hunger
 H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Patient currently
   appears euvolemic-to-dry, and is without cardiac symptoms.  Minimal ST
   depressions seen on initial EKG (< 1mm in V4-V6) likely due to demand
   since cardiac enzymes have been negative x2.
   - echo today to evaluate ventricular function
   - f/u third set of cardiac enzymes
   - repeat EKG this am
 H/O Atrial fibrillation: Patient was initially in afib on arrival to
   [**Hospital Unit Name 44**] in setting of fever, tachycardia and hypotension but has been in
   sinus rhythm since 7pm.
   - continue to monitor on tele
   ICU Care
   Nutrition: NPO since midnight for possible procedure today
   Glycemic Control: Has been euglycemic, continue checking glucose with
   daily labs
   Lines:
   16 Gauge - [**2141-7-18**] 04:58 PM
   20 Gauge - [**2141-7-18**] 04:59 PM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: PPI
   Communication:  Daughter [**Name (NI) 668**] [**Telephone/Fax (1) 9212**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: ICU
   11:21
   ------ Protected Section ------
   Pt seen and examinied. Agree with medical student note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2141-7-19**] 11:32 ------

2141-07-20 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Pleuritic right chest pain
   24 Hour Events:
   - patient started on coumadin
   - [** 949**] briefly decreased (although unclear whether this was due to
   accidental foley removal), [** 949**] responded appropriately to 500 ml LR
   bolus with [** 949**] 60-70 cc
s per hour this am
   - patient briefly developed non-gap acidosis with bicarb of 19,
   resolved with substitution of LR for NS for fluid boluses
   S: The patient is feeling well.  Her chest pain has entirely resolved.
   She continues to have dry-mouth as well as her baseline amount of cough
   and shortness or breath.  She has not had N/V diarrhea.  No pain or
   swelling in her legs.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-7-18**] 08:00 PM
   Vancomycin - [**2141-7-19**] 08:02 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-20**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 80 (73 - 94) bpm
   BP: 99/55(67) {82/37(35) - 125/73(89)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,315 mL
                                                                    690 mL
   PO:
                                                                    270 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  2,045 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    250 mL
   Urine:
                                                                    700 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,615 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen: Elderly woman in NAD, sleeping comfortable
   HEENT: dry MMM, no JVD
   CV: RRR, no murmurs
   Lungs: Decreased breath sounds throughout, lungs otherwise clear
   Abd: Soft, non-tender, +bowel sounds
   Ext: Warm and well-perfused, no edema or tenderness
   Neuro: Responds appropriately to questions, grossly non-focal
   Labs / Radiology
   293 K/uL
   8.1 g/dL
   101 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   111 mEq/L
   143 mEq/L
   25.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2141-7-18**]  08:16 PM
                             [**2141-7-19**]  04:10 AM
                             [**2141-7-20**]  02:55 AM
   WBC
   10.6
   8.3
   Hct
   24.7
   25.0
   Plt
   269
   293
   Cr
   0.8
   0.6
   TropT
   0.01
   <0.01
   Glucose
   99
   101
   Other labs: PT / PTT / INR:15.3/56.2/1.3, CK / CKMB /
   Troponin-T:31/3/<0.01, Differential-Neuts:77.2 %, Lymph:17.6 %,
   Mono:4.6 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Ca++:7.3 mg/dL, Mg++:2.0
   mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   81F with h/o chronic eosinophilic lung disease, COPD, diastolic CHF,
   and recent admission for MSSA and pan-sensitive Pseudomonas PNA who
   presents with fevers, right sided pleuritic chest pain and found to
   have extensive R sided PE on imaging.
 PULMONARY EMBOLISM: Likely due to prolonged immobilization with
   inadequate anticoagulation.  TTE performed yesterday appears showed L
   and R ventricles to be largely unchanged from patient
s previous echo.
   Patient started on coumadin 3mg with subsequent INR at 1.3.  Has been
   hemodynamically stable.
   - transition from heparin drip to lovenox [**Hospital1 **]
   - will continue coumadin at 3 mg today and recheck INR; patient is
   hesitant to take coumadin long-term.  Will need to discuss long term
   coumadin vs lovenox with her PCP ([**Doctor First Name 9227**] [**Doctor First Name **]) and her pulmonoligist ([**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 2045**])
   - continue close monitoring of hemodynamic status
 FEVER: After initial Tmax of 103.4 in ED, the patient has now been
   afebrile for over 24 hours.
   - will d/c abx today given her excellent clinical response to treatment
   of PE and clinical appearance not consistent with bacterial pneumonia
   - obtain sputum sample for culture in the event that patient spikes a
   fever
   - f/u blood, urine cultures
   - continue to trend WBC and temp curve
 HYPOTENSION: Patient has been at at her usual BP (per outpatient OMR
   notes) of systolics between high-80
s to low 110
   - continue fluid bolus to goal SBP >90, [**Last Name (NamePattern1) 949**] >30 cc/hr
OLIGURIA: It is unclear whether the low recorded [**Name (NI) 949**] overnight was
   truly oliguria or due to the foley being accidentally removed;
   regardless her [**Name (NI) 949**] has been satisfactory since this receiving a 500 cc
   LR bolus.  Creatinine of 0.6 suggests good renal function
   -d/c foley, encourage PO intake
   - monitor I
s and O
HYPONATREMIA: Patient with Na at nadir value of 133 (down from 138) at
   4am on [**7-19**], likely dilutional given substantial amount of NS she
   received since admission.  Has improved overnight with  decreasing
   frequency of fluid boluses.
   - check lytes daily
 HYPOKALEMIA: Patient has refused PO K repletion, therefore will
   continue to slowly infuse IV K so as to avoid pain at infusion site.
   Patient
s daughter reports that she takes her own K supplementation at
   home; if her daughter brings this in she can take this form of PO K
   instead.
   - check pm K
NON-GAP ACIDOSIS: Likely due to hydration with large volumes of NS.
   Has improved with changing fluids to LR.
   - continue LR for fluids
   - check lytes daily
HISTORY OF EOSINOPHILIC LUNG DISEASE: No evidence of exacerbation of
   disease at this time
   - continue home dose prednisone 5 mg daily
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: LENI
s reveal
   significant clot burden ( R common fem extending into greater saphenous
   and profunda femorus, L peroneal)
   - switch heparin drip to lovenox [**Hospital1 **]
 ANEMIA: Stable at patient
s baseline Hct in mid-to-high 20
   - check Hct daily
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION: Patient appears at her baseline
   breathing status without increased SOB or cough, however is requiring
   supplemental O2 likely due to large PE.
   -  wean O2 as tolerated
   - continue home COPD meds
 H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Patient currently
   appears euvolemic-to-dry, and is without cardiac symptoms.  Minimal ST
   depressions seen on initial EKG (< 1mm in V4-V6) likely due to demand
   since cardiac enzymes have been negative x3.  Echo yesterday showed
   ventricular size and function largely unchanged from previous echo.
   - continue home meds
 H/O Atrial fibrillation: Patient was initially in afib on arrival to
   [**Hospital Unit Name 44**] in setting of fever, tachycardia and hypotension but has been in
   sinus rhythm since 7pm.
   - continue to monitor on tele
   ICU Care
   Nutrition: Low-sodium diet
   Glycemic Control:  Patient has been euglycemic, continue monitoring
   with daily labs
   Lines:
   16 Gauge - [**2141-7-18**] 04:58 PM
   20 Gauge - [**2141-7-18**] 04:59 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   Communication:  Daughter [**Name (NI) 668**] [**Telephone/Fax (1) 9212**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: Likely call out to medical floor later today
   13:28
   ------ Protected Section ------
   Agree with excellent MS4 Note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 69**] [**Last Name (NamePattern1) 8657**], MD
   on:[**2141-7-20**] 16:19 ------

2141-07-21 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pulmonary Embolism
   24 Hour Events:
   - Patient developed fever to 100.9, increased SOB, increased O2
   requirement, tachycardia and increased anxiety.   CXR revealed R
   basilar opacification concerning for infarction from large PE.  UA with
   few bacteria and WBC, trace leuk so patient started on macrobid (from
   previous urine sensitivities).  Blood and urine cultures pending.  Temp
   resolved and O2 requirement back down to 2L.
   - Patient received 20 mg IV lasix for increased SOB and +5 L fluid
   status for length of stay, made good urine with 800 cc output in 6
   hours.  Systolic pressure transiently dropped to 76/41 but responded to
   250 cc fluid bolus with SBP in patient
s usual range of high-80
s to
   mid 110
s for remainder of 24 hours.
 SPUTUM CULTURE - At [**2141-7-20**] 01:06 PM
 BLOOD CULTURED - At [**2141-7-20**] 04:00 PM
 BLOOD CULTURED - At [**2141-7-20**] 04:36 PM
 URINE CULTURE - At [**2141-7-20**] 04:36 PM
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Ultram (Oral) (Tramadol Hcl)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2141-7-18**] 08:00 PM
   Vancomycin - [**2141-7-19**] 08:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2141-7-20**] 02:35 PM
   Enoxaparin (Lovenox) - [**2141-7-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-7-21**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.8
   HR: 93 (87 - 125) bpm
   BP: 103/53(65) {76/40(49) - 124/101(106)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,018 mL
                                                                    102 mL
   PO:
                                                                    430 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,588 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    265 mL
   Urine:
                                                                  1,585 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    433 mL
                                                                   -163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: Elderly woman in NAD, sleeping comfortably, not coughing
   HEENT: NCAT, dry MM, no JVD
   CV: RRR, no murmurs
   Lungs: Decreased breath sounds, scattered end-expiratory wheezes
   Abd: + Bowel sounds, minimally distended, non-tender
   Ext: Warm and well-perfused, no edema, no calf tenderness
   Neuro: Responds appropriately to questions, non-focal exam
   Labs / Radiology
   320 K/uL
   7.6 g/dL
   84 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   111 mEq/L
   141 mEq/L
   23.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2141-7-18**]  08:16 PM
                             [**2141-7-19**]  04:10 AM
                             [**2141-7-20**]  02:55 AM
                             [**2141-7-20**]  03:55 PM
                             [**2141-7-21**]  05:17 AM
   WBC
   10.6
   8.3
   7.4
   Hct
   24.7
   25.0
   23.5
   Plt
   [**Telephone/Fax (3) 9240**]
   Cr
   0.8
   0.6
   0.7
   0.5
   TropT
   0.01
   <0.01
   Glucose
   99
   101
   84
   Other labs: PT / PTT / INR:19.4/63.0/1.8, CK / CKMB /
   Troponin-T:31/3/<0.01, Differential-Neuts:77.2 %, Lymph:17.6 %,
   Mono:4.6 %, Eos:0.5 %, Lactic Acid:1.1 mmol/L, Ca++:7.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   81F with h/o chronic eosinophilic lung disease, COPD, diastolic CHF,
   and recent admission for MSSA and pan-sensitive Pseudomonas PNA who
   presents with fevers, right sided pleuritic chest pain and found to
   have extensive R sided PE on imaging.
 PULMONARY EMBOLISM: Likely due to prolonged immobilization with
   inadequate anticoagulation.  TTE performed yesterday appears showed L
   and R ventricles to be largely unchanged from patient
s previous echo.
   Patient started on coumadin 3mg with subsequent INR at 1.3.  Has been
   hemodynamically stable.
   - transition from heparin drip to lovenox [**Hospital1 **]
   - will continue coumadin at 3 mg today and recheck INR; patient is
   hesitant to take coumadin long-term.  Will need to discuss long term
   coumadin vs lovenox with her PCP ([**Doctor First Name 9227**] [**Doctor First Name **]) and her pulmonoligist ([**First Name8 (NamePattern2) **]
   [**Last Name (NamePattern1) 2045**])
   - continue close monitoring of hemodynamic status
 FEVER: After initial Tmax of 103.4 in ED, the patient has now been
   afebrile for over 24 hours.
   - will d/c abx today given her excellent clinical response to treatment
   of PE and clinical appearance not consistent with bacterial pneumonia
   - obtain sputum sample for culture in the event that patient spikes a
   fever
   - f/u blood, urine cultures
   - continue to trend WBC and temp curve
 HYPOTENSION: Patient has been at at her usual BP (per outpatient OMR
   notes) of systolics between high-80
s to low 110
   - continue fluid bolus to goal SBP >90, [**Last Name (NamePattern1) 949**] >30 cc/hr
OLIGURIA: It is unclear whether the low recorded [**Name (NI) 949**] overnight was
   truly oliguria or due to the foley being accidentally removed;
   regardless her [**Name (NI) 949**] has been satisfactory since this receiving a 500 cc
   LR bolus.  Creatinine of 0.6 suggests good renal function
   -d/c foley, encourage PO intake
   - monitor I
s and O
HYPONATREMIA: Patient with Na at nadir value of 133 (down from 138) at
   4am on [**7-19**], likely dilutional given substantial amount of NS she
   received since admission.  Has improved overnight with  decreasing
   frequency of fluid boluses.
   - check lytes daily
 HYPOKALEMIA: Patient has refused PO K repletion, therefore will
   continue to slowly infuse IV K so as to avoid pain at infusion site.
   Patient
s daughter reports that she takes her own K supplementation at
   home; if her daughter brings this in she can take this form of PO K
   instead.
   - check pm K
NON-GAP ACIDOSIS: Likely due to hydration with large volumes of NS.
   Has improved with changing fluids to LR.
   - continue LR for fluids
   - check lytes daily
HISTORY OF EOSINOPHILIC LUNG DISEASE: No evidence of exacerbation of
   disease at this time
   - continue home dose prednisone 5 mg daily
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY: LENI
s reveal
   significant clot burden ( R common fem extending into greater saphenous
   and profunda femorus, L peroneal)
   - switch heparin drip to lovenox [**Hospital1 **]
 ANEMIA: Stable at patient
s baseline Hct in mid-to-high 20
   - check Hct daily
 H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION: Patient appears at her baseline
   breathing status without increased SOB or cough, however is requiring
   supplemental O2 likely due to large PE.
   -  wean O2 as tolerated
   - continue home COPD meds
 H/O HEART FAILURE (CHF), DIASTOLIC, CHRONIC: Patient currently
   appears euvolemic-to-dry, and is without cardiac symptoms.  Minimal ST
   depressions seen on initial EKG (< 1mm in V4-V6) likely due to demand
   since cardiac enzymes have been negative x3.  Echo yesterday showed
   ventricular size and function largely unchanged from previous echo.
   - continue home meds
 H/O Atrial fibrillation: Patient was initially in afib on arrival to
   [**Hospital Unit Name 44**] in setting of fever, tachycardia and hypotension but has been in
   sinus rhythm since 7pm.
   - continue to monitor on tele
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2141-7-18**] 04:58 PM
   20 Gauge - [**2141-7-18**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: